US04683241
4-pivaloyloxy-4'-chlorobenzophenone
2.16 g (0.01 mole) of 4-hydroxy-4'-chlorobenzophenone and 1.2 g (0.015 mole) of pivaloyl chloride in solution were warmed to 50° C. for 3 hrs in 60 mls of dry pyridine with a drying tube attached. The solvent was removed via rotary evaporator and H2O added. The product was filtered and recrystallized from ethanol; 2.3 g (73%) yield; M.P.~113°-114° C.

reactant | 4-hydroxy-4'-chlorobenzophenone | 0.01 mole, 2.16 g | OC1=CC=C(C(=O)C2=CC=C(C=C2)Cl)C=C1 | C13H9ClO2
reactant | pivaloyl chloride | 0.015 mole, 1.2 g | C(C(C)(C)C)(=O)Cl | C5H9ClO
solvent | pyridine | 60 mls | N1=CC=CC=C1 | C5H5N
product | 4-pivaloyloxy-4'-chlorobenzophenone | C(C(C)(C)C)(=O)OC1=CC=C(C(=O)C2=CC=C(C=C2)Cl)C=C1 | C18H17ClO3
